US07605265B2
6-[3-(6-Chloro-1,2,3,4-tetrahydro-acridin-9-ylamino)-propylamino]-5,6,7,8-tetrahydro-1H-quinolin-2-one:
To a mixture of N1-(6-Chloro-1,2,3,4-tetrahydro-acridin-9-yl)-propane-1,3-diamine (50 mg, 0.17 mmoL), 1,5,7,8-Tetrahydro-quinoline-2,6-dione (31 mg, 0.19 mmoL) in 5 mL methylene chloride, was added sodium triacetoxyborohydride (110 mg, 0.52 mmoL) and a catalytic amount of acetic acid. After stiring at room temperature for 24 h, the reaction was stopped by adding saturated sodium bicarbonate. The mixture was extracted with methylene chloride three times. The combined methylene chloride extract was dried, filtered and concentrated. Purification by column chromatography on silica gel column with 10% MeOH/1% ammonium hydroxide in methylene chloride provided the desired product (27.6 mg, 0.063 mmoL, 37%).

reactant | N1-(6-Chloro-1,2,3,4-tetrahydro-acridin-9-yl)-propane-1,3-diamine | 50 mg | ClC=1C=C2N=C3CCCCC3=C(C2=CC1)NCCCN | C16H20ClN3
reactant | 1,5,7,8-Tetrahydro-quinoline-2,6-dione | 31 mg | N1C(C=CC=2CC(CCC12)=O)=O | C9H9NO2
reactant | sodium triacetoxyborohydride | 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-[3-(6-Chloro-1,2,3,4-tetrahydro-acridin-9-ylamino)-propylamino]-5,6,7,8-tetrahydro-1H-quinolin-2-one | 27.6 mg, 37% | ClC=1C=C2N=C3CCCCC3=C(C2=CC1)NCCCNC1CC=2C=CC(NC2CC1)=O | C25H29ClN4O
